**************************************************
* Manufacturer:       Wurth Elektronik 
* Kinds:      Inductor
* Matchcode:          WE-PD2SA
* Library Type:       spice
* Version:        rev19b
* Created/modified by:    Fredo       
* Date and Time   :       6/20/2019
* Team:           eiSos EDA Service  
* Contact:        libraries@we-online.com
**************************************************
.subckt 7850_784787012_1.2u 1 2
Rp 1 2 1567.8
Cp 1 2 1.42212p
Rs 1 N3 0.0085
L1 N3 2 1.2u
.ends 7850_784787012_1.2u
*******
.subckt 7850_784787027_2.7u 1 2
Rp 1 2 3202.753
Cp 1 2 2.322855p
Rs 1 N3 0.0135
L1 N3 2 2.7u
.ends 7850_784787027_2.7u
*******
.subckt 7850_784787039_3.9u 1 2
Rp 1 2 4293.294
Cp 1 2 2.59292p
Rs 1 N3 0.0167
L1 N3 2 3.9u
.ends 7850_784787039_3.9u
*******
.subckt 7850_784787047_4.7u 1 2
Rp 1 2 5726.39
Cp 1 2 1.795119p
Rs 1 N3 0.0243
L1 N3 2 4.7u
.ends 7850_784787047_4.7u
*******
.subckt 7850_784787068_6.8u 1 2
Rp 1 2 6952.128
Cp 1 2 3.116245p
Rs 1 N3 0.027
L1 N3 2 6.8u
.ends 7850_784787068_6.8u
*******
.subckt 7850_784787082_8.2u 1 2
Rp 1 2 8622.735
Cp 1 2 2.843537p
Rs 1 N3 0.033
L1 N3 2 8.2u
.ends 7850_784787082_8.2u
*******
.subckt 7850_784787100_10u 1 2
Rp 1 2 10357.96
Cp 1 2 3.805227p
Rs 1 N3 0.0365
L1 N3 2 10u
.ends 7850_784787100_10u
*******
.subckt 7850_784787101_100u 1 2
Rp 1 2 92925.07
Cp 1 2 7.9654p
Rs 1 N3 0.396
L1 N3 2 100u
.ends 7850_784787101_100u
*******
.subckt 7850_784787120_12u 1 2
Rp 1 2 12034.24
Cp 1 2 4.07934p
Rs 1 N3 0.045
L1 N3 2 12u
.ends 7850_784787120_12u
*******
.subckt 7850_784787121_120u 1 2
Rp 1 2 141840
Cp 1 2 8.80291p
Rs 1 N3 0.545
L1 N3 2 120u
.ends 7850_784787121_120u
*******
.subckt 7850_784787150_15u 1 2
Rp 1 2 13969.67
Cp 1 2 4.567326p
Rs 1 N3 0.052
L1 N3 2 15u
.ends 7850_784787150_15u
*******
.subckt 7850_784787151_150u 1 2
Rp 1 2 106676
Cp 1 2 10.25425p
Rs 1 N3 0.61
L1 N3 2 150u
.ends 7850_784787151_150u
*******
.subckt 7850_784787180_18u 1 2
Rp 1 2 15649.74
Cp 1 2 6.131139p
Rs 1 N3 0.067
L1 N3 2 18u
.ends 7850_784787180_18u
*******
.subckt 7850_784787181_180u 1 2
Rp 1 2 139843
Cp 1 2 7.439317p
Rs 1 N3 0.673
L1 N3 2 180u
.ends 7850_784787181_180u
*******
.subckt 7850_784787220_22u 1 2
Rp 1 2 20858.75
Cp 1 2 5.88774p
Rs 1 N3 0.088
L1 N3 2 22u
.ends 7850_784787220_22u
*******
.subckt 7850_784787221_220u 1 2
Rp 1 2 195324.1
Cp 1 2 7.425036p
Rs 1 N3 0.743
L1 N3 2 220u
.ends 7850_784787221_220u
*******
.subckt 7850_784787330_33u 1 2
Rp 1 2 29973.38
Cp 1 2 6.003671p
Rs 1 N3 0.137
L1 N3 2 33u
.ends 7850_784787330_33u
*******
.subckt 7850_784787470_47u 1 2
Rp 1 2 45853.18
Cp 1 2 6.95963p
Rs 1 N3 0.206
L1 N3 2 47u
.ends 7850_784787470_47u
*******
.subckt 7850_784787680_68u 1 2
Rp 1 2 65838.19
Cp 1 2 6.620799p
Rs 1 N3 0.246
L1 N3 2 68u
.ends 7850_784787680_68u
*******
.subckt 7850_784787820_82u 1 2
Rp 1 2 78401.43
Cp 1 2 8.23377p
Rs 1 N3 0.278
L1 N3 2 82u
.ends 7850_784787820_82u
*******
